US06498172B1
(3-{[(4-Methoxy-benzenesulfonyl)-(4-pyrazol-1-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared following the method described in Step A of Example 13w from {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13a, and 4-methoxybenzenesulfonyl chloride. MS 564 (M+1).

reactant | {3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | (3-{[(4-Methoxy-benzenesulfonyl)-(4-pyrazol-1-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)N1N=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C30H33N3O6S
